US04563455
A mixture of 2-cyanomethyl-1-phenyl-1H-benzimidazole (1.8 g), dicyanodiamide (785 mg) and potassium hydroxide (87 mg) in methyl cellosolve was refluxed for 2 hours. After the mixture was cooled, the resultant precipitates were filtered off and washed with water and methanol in turn to give 2,4-diamino-6-(1-phenyl-1H-benzimidazol-2-yl)methyl-1,3,5-triazine (1.8 g).

reactant | 2-cyanomethyl-1-phenyl-1H-benzimidazole | 1.8 g | C(#N)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C15H11N3
reactant | dicyanodiamide | 785 mg | C(#N)N=C(N)N | C2H4N4
reactant | potassium hydroxide | 87 mg | [OH-].[K+]
solvent | methyl cellosolve | COCCO | C3H8O2
product | 2,4-diamino-6-(1-phenyl-1H-benzimidazol-2-yl)methyl-1,3,5-triazine | 1.8 g | NC1=NC(=NC(=N1)N)CC1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C17H15N7
